US07056917B2
(B) 8-[2-(4-Ethyl-1,3-thiazol-2-yl)ethyl]-2-hydroxy-4H-pyrido[1,2-a]pyrimidin-4-one
4-[2-(4-Ethyl-1,3-thiazol-2-yl)ethyl]-2-pyridinamine (480 mg, 2.044 mmol) dissolved in xylene (10 ml) was added with trichlorophenyl malonate (1 g, 2.160 mmol) and refluxed by heating at 140° C. The reaction solution was stirred for 3 hours and returned to room temperature. The solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=80:1→50:1→5:1) to obtain 135 mg (22%) of orange crystals.

reactant | 4-[2-(4-Ethyl-1,3-thiazol-2-yl)ethyl]-2-pyridinamine | 2.044 mmol, 480 mg | C(C)C=1N=C(SC1)CCC1=CC(=NC=C1)N | C12H15N3S
reactant | trichlorophenyl malonate | 2.160 mmol, 1 g | C(CC(=O)[O-])(=O)OC1=C(C(=C(C=C1)Cl)Cl)Cl
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-[2-(4-Ethyl-1,3-thiazol-2-yl)ethyl]-2-hydroxy-4H-pyrido[1,2-a]pyrimidin-4-one | 135 mg, 22% | C(C)C=1N=C(SC1)CCC1=CC=2N(C(C=C(N2)O)=O)C=C1 | C15H15N3O2S
